US09169242B2
Step 5: 3-(3-Bromo-4-methylphenyl)-5,5-dimethylisoxazol-4(5H)-one:
To a solution 3-(3-bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazol-4-ol (1.80 g, 6.42 mmol) in glacial acetic acid (70 mL), chromium trioxide (640 mg, 6.42 mmol, 1.0 eq), water (4 mL) and concentrated sulfuric acid (0.8 mL) were successively added and the resulting mixture was stirred at 100° C. for 30 min. The reaction was cooled to room temperature and poured into water (10 mL) and extracted with ethyl acetate (3×20 mL). The combined organic layers were washed with water (10 mL), brine (10 mL) dried (Na2SO4) and filtered. The filtrate was concentrated under vacuum. The crude product was purified by flash column chromatography (silica gel, 2% ethyl acetate in hexane) to afford the 800 mg of the desired product as a white solid. 1HNMR (400 MHz, CDCl3) δ 8.29 (d, J=1.0 Hz, 1H), 7.94 (dd, J=1.0, 8.0 Hz, 1H), 7.31 (d, J=8.0 Hz, 1H), 2.44 (s, 3H), 1.46 (s. 3H), 1.24 (s, 3H); ESI-MS (m/z) 282, 284 [(MH)+, Br79,81].

reactant | 3-(3-bromo-4-methylphenyl)-5,5-dimethyl-4,5-dihydroisoxazol-4-ol | 6.42 mmol, 1.80 g | BrC=1C=C(C=CC1C)C1=NOC(C1O)(C)C | C12H14BrNO2
reactant | water | 4 mL | O | H2O
reactant | sulfuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 6.42 mmol, 640 mg, 1.0 eq | [O-2].[O-2].[O-2].[Cr+6]
product | 3-(3-Bromo-4-methylphenyl)-5,5-dimethylisoxazol-4(5H)-one | 800 mg | BrC=1C=C(C=CC1C)C1=NOC(C1=O)(C)C | C12H12BrNO2
